US09290468B2
Methyl 4-azido-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxy benzyl)thio)benzoate can be hydrogenated catalyzed by appropriate catalyst (such as Pd/C, Pt, Ni) in the solvent (include aliphatic and aromatic hydrocarbon (such as pentane, hexane, heptane, cyclohexane, petroleum ether, petrol, gasoline, benzene, toluene, xylene), ether (such as diethyl ether, dibutyl ether, glycol dimethyl ether, 2-methoxyethyl ether, tetrahydrofuran, dioxane), ester (such as ethyl acetate, methyl acetate), amide (such as N,N-dimethylformamide, N,N-dimethylacetamide and N-methylpyrrolidin-2-one), DMSO, sulfolane, HMPA, DMPU, prefer methanol, ethanol, propan-1-ol and water) for some time (1-12 h, prefer 3-10 h). Methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate is obtained after conventional workup.

reactant | Methyl 4-azido-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxy benzyl)thio)benzoate | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F)F | C22H18F2N4O3S
reactant | ether | CCOCC | C4H10O
reactant | DMSO | CS(=O)C | C2H6OS
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | Pd/C | [Pd] | Pd
catalyst | Ni | [Ni] | Ni
solvent | water | O | H2O
solvent | propan-1-ol | C(CC)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | DMPU | CN1CCCN(C1=O)C | C6H12N2O
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | Methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate | NC1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F)F | C22H20F2N2O3S
